US07923562B2
2-(3-Amino-1-hydroxypropyl)-8-bromoquinolin-7-yl benzenesulfonate (SO190).
To a stirred solution of 8-Bromo-2-(2-cyano-1-hydroxyethyl)quinolin-7-yl benzenesulfonate (890 mg, 2.05 mmol) in THF (2 mL) were slowly added 1 M BH3-THF complex (4.1 mL, 4.10 mmol) at 0° C. And the reaction mixture was slowly warmed to room temperature. The mixture was then refluxed for 1 h, then cooled to 0° C. and quenched with MeOH. After the removal of solvents in vacuo, the mixture was stirred with 1.2N HCl in MeOH for 10 min. After the removal of solvents in vacuo again, the residue was dissolved in CHCl3 extracted with and washed twice with saturated aq. NaHCO3 and then dried over anhydrous Na2SO4. Solvent was removed in vacuo to yield 895 mg SO190 as a yellow oil and was used for next step without further purification.

reactant | 8-Bromo-2-(2-cyano-1-hydroxyethyl)quinolin-7-yl benzenesulfonate | 2.05 mmol, 890 mg | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C=CC(=NC2=C1Br)C(CC#N)O | C18H13BrN2O4S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-(3-Amino-1-hydroxypropyl)-8-bromoquinolin-7-yl benzenesulfonate | C1(=CC=CC=C1)S(=O)(=O)OC1=CC=C2C=CC(=NC2=C1Br)C(CCN)O | C18H17BrN2O4S
